US06583135B2
Preparation of tert-Butyl 8,10-Dichloro-6-(2-phenoxyethyl)-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate
Sodium hydride (60% dispersion in mineral oil, 51 mg, 1.3 mmol) was added to a solution of tert-butyl 8,10-dichloro-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate (0.30 g, 0.84 mmol) in DMF (5 mL). After 25 min, β-bromophenetole was added (0.23 mL). The reaction was quenched with saturated aqueous NH4Cl after 18 h and extracted with EtOAc (3×15 mL). The combined organic extracts were washed with brine, dried over Na2SO4, decanted, and concentrated. The crude product was purified by column chromatography (Biotage, 40S) with heptane/EtOAc (9:1) to give 0.36 g (90%) of a white solid: mp 131.5-133.0° C.; 1H NMR (300 MHz, CDCl3) δ 7.04 (d, J=1.7 Hz, 1H), 6.94 (t, J=7.4 Hz, 1H), 6.77 (m, 2H), 4.41 (m, 2H), 4.16 (m, 2H), 3.76 (m, 2H), 3.65 (m, 2H), 3.45 (m, 2H), 3.11 (m, 2H), 1.48 (s, 9H); IR (diffuse reflectance) 2974, 2929, 1691, 1600, 1496, 1459, 1413, 1393, 1365, 1348, 1303, 1243, 1170, 1114, 754 cm−1; MS (EI) m/z 474 (M+), 420, 419, 418, 417, 344, 334, 332, 57, 56; Anal. Calcd for C25H28Cl2N2O3: C, 63.16; H, 5.94; N, 5.89; found: C, 63.19; H, 5.99; N, 5.89.

reactant | Sodium hydride | 1.3 mmol, 51 mg | [H-].[Na+]
reactant | tert-butyl 8,10-dichloro-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate | 0.84 mmol, 0.30 g | ClC=1C=C(C=2C3=C(NC2C1)CCN(CC3)C(=O)OC(C)(C)C)Cl | C17H20Cl2N2O2
reactant | β-bromophenetole | BrCCOC1=CC=CC=C1 | C8H9BrO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | tert-Butyl 8,10-Dichloro-6-(2-phenoxyethyl)-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate | 0.36 g, 90% | ClC=1C=C(C=2C3=C(N(C2C1)CCOC1=CC=CC=C1)CCN(CC3)C(=O)OC(C)(C)C)Cl | C25H28Cl2N2O3
